US07291631B2
Using General Procedure B, cyclopropylamine, 4-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-butyraldehyde and NaBH(OAc)3 were reacted to obtain a pale yellow oil. A mixture of the oil, Boc2O, Et3N in CH2Cl2 was stirred overnight. Aqueous workup and purification gave cyclopropyl-[4-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-butyl]-carbamic acid tert-butyl ester as a pale yellow oil. Deprotection with NH2NH2.H2O using General Procedure E gave (4-Amino-butyl)-cyclopropyl-carbamic acid tert-butyl ester as a colorless oil. 1H NMR (CDCl3) δ 0.54-0.59 (m, 2H), 0.70-0.75 (m, 2H), 1.32-1.45 (m, 11H), 1.52-1.65 (m, 2H), 2.44-2.50 (m, 1H), 2.71 (t, 2H, J=7.2 Hz), 3.20 (t, 2H, J=7.5 Hz).

reactant | cyclopropylamine | C1(CC1)N | C3H7N
reactant | 4-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-butyraldehyde | O=C1N(C(C2=CC=CC=C12)=O)CCCC=O | C12H11NO3
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | Boc2O | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | Et3N | CCN(CC)CC | C6H15N
product | cyclopropyl-[4-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-butyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CCCCN1C(C2=CC=CC=C2C1=O)=O)C1CC1)=O | C20H26N2O4
